US07576215B2
(3-METHYLPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE
3-Bromotoluene (0.078 mL, 0.64 mmol) was taken into THF (3 mL) and cooled to −78° C. Next, BuLi (0.32 mL of a 2.0 M Solution, 0.64 mmol) was added dropwise and then stirred for 30 minutes. Next, N-methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide (0.231 g, 0.64 mmol) in THF (2 mL) was added quickly via syringe and allowed to stir overnight. MeOH and 2 N HCl were added and stirred for 5 minutes. Then the mixture was extracted with ethyl acetate and dried over magnesium sulfate and concentrated. The resulting material was purified via column chromatography using 10% ethyl acetate in hexane as the eluent to afford 0.060 g of desired product as an off white solid. MS (ESI) m/z 392 ([M+H]+); Anal. Calcd. for C24H16F3NO: C, 73.65; H, 4.12; N, 3.58. Found: C, 73.34; H, 4.08; N, 3.31.

reactant | 3-Bromotoluene | 0.64 mmol, 0.078 mL | BrC=1C=C(C=CC1)C | C7H7Br
reactant | BuLi | [Li]CCCC
reactant | N-methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide | 0.64 mmol, 0.231 g | CON(C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F)C | C19H15F3N2O2
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | (3-METHYLPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | 0.060 g | CC=1C=C(C=CC1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C24H16F3NO
